US04275065
2-Phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]-benzothiazol-3(2H)-one mesoionic dedihydro derivative
9.7 g. (0.026 moles) of 3-hydroxy-2-phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]benzothiazolium bromide, prepared according to Example 10, is suspended in a mixture of 1000 ml. methylene chloride and 500 ml. water, and the mixture is stirred at room temperature for 5 hours. The layers are separated and the methylene chloride layer is dried over anhydrous magnesium sulfate. The drying agent is removed by filtration and the filtrate is reduced in volume. The residual solid is triturated with ether and the yellow solid is collected. The crude material is recrystallized from 1.5 l. of acetonitrile to yield a yellow solid weighing 4.7 g. (63% yield). The product melts at ca. 200° C.(dec.).

reactant | 3-hydroxy-2-phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]benzothiazolium bromide | 0.026 moles | [Br-].OC1=C(SC=2SC3=C([N+]21)CCCC3)C3=CC=CC=C3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]-benzothiazol-3(2H)-one | 63% yield | C1(=CC=CC=C1)C1C(N2C(SC3=C2CCCC3)S1)=O | C15H15NOS2
